US04141982
A mixture of 346 ml of chlorobenzene and 120 g of valeryl chloride is treated, at room temperature, in the course of 1 hour with portions of aluminium chloride and the mixture is at the same time heated to 70°. The mixture is stirred for a further hour at this temperature and then cooled to 25° and the dark red reaction mixture is poured on to 1,000 g of ice. Concentrated hydrochloric acid is added and the mixture is then extracted with ethyl acetate. The organic extract is washed with 2 N hydrochloric acid, filtered through a diatomaceous earth formulation (Hyflo) and washed with further 2 N hydrochloric acid, twice with water, with a 2 N aqueous solution of sodium carbonate and with water. It is dried over sodium sulphate and filtered and the filtrate is evaporated under reduced pressure. The residue is distilled; 4-chloro-valerophenone is obtained at 155°-156°/14 mm Hg; the product crystallises and melts at 28°-30°.

reactant | valeryl chloride | 120 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | chlorobenzene | 346 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-chloro-valerophenone | ClC(CCC(=O)C1=CC=CC=C1)C | C11H13ClO
